### PR TITLE
ring completion stub

### PR DESCRIPTION
**Pull request by PatrickMassot**
This tries to clarify where we are, but does not add anything. Question is: could you proceed using `ring_completions.lean` and its sorry load?

### CODE REVIEW

**Comment by PatrickMassot** [comment]
I just added an update to mathlib. The project compiles again (with sorry warnings of course)

File: src/perfectoid_space.lean [hunk 1]
```diff
@@ -14,7 +14,7 @@ class perfectoid_ring (R : Type*) extends Tate_ring R :=
 (complete : is_complete R)
 (uniform  : is_uniform R)
 (ramified : ∃ ϖ : units R, (is_pseudo_uniformizer ϖ) ∧ ((ϖ^p : R) ∣ p))
-(Frob     : ∀ a : Rᵒ, ∃ b : Rᵒ, (p : Rᵒ) ∣ (b^p - a))
+(Frob     : ∀ a : Rᵒ, ∃ b : Rᵒ, (p : R) ∣ (b^p - a))
```
Comment (jcommelin) [inline src/perfectoid_space.lean:17]: Why do you make this change? Both `a` and `b` are terms of `Rᵒ`...

File: src/power_bounded.lean [hunk 2]
```diff
@@ -28,7 +28,7 @@ begin
   split, {exact hU},
   intros v hv b H,
   cases H with n H,
-  induction n; simpa [H.symm, pow_succ, mem_of_nhds hU] 
+  induction n ; { simp [H.symm, pow_succ, mem_of_nhds hU], try {assumption} }
```
Comment (jcommelin) [inline src/power_bounded.lean:31]: What is wrong with `simpa`?

File: src/Huber_ring.lean [hunk 3]
```diff
@@ -4,13 +4,17 @@ import ring_theory.subring
...
 class Huber_ring (R : Type*) extends comm_ring R, topological_space R, topological_ring R :=
 (S : set R) [HS : is_subring S]
 (J : set S) [HJ : is_ideal J]
 (HJ_fin : ∃ gen : set S, set.finite gen ∧ span gen = J)
-(H1 : ∀ n, @topological_space.is_open S 
+(H1 : ∀ n, @topological_space.is_open S
   (topological_space.induced subtype.val to_topological_space) (pow_ideal J n))
-(H2 : ∀ K : set S, 0 ∈ K
-  → @topological_space.is_open S (topological_space.induced subtype.val to_topological_space) K
+(H2 : ∀ K : set S, (0 : S) ∈ K
```
Comment (jcommelin) [inline src/Huber_ring.lean:17]: Would you mind explaining to me what the benefit is of this change?

File: src/perfectoid_space.lean (hunk 1 above)
Comment (PatrickMassot) [reply src/perfectoid_space.lean:17]: Because it didn't compile with the other version. I think there have been changes to rings and subrings that broke a lot of small things like like. Kevin should probably check whether he can get this to compile with `Rᵒ`.

File: src/power_bounded.lean (hunk 2 above)
Comment (PatrickMassot) [reply src/power_bounded.lean:31]: Same answer as above: it didn't compile.

File: src/Huber_ring.lean (hunk 3 above)
Comment (PatrickMassot) [reply src/Huber_ring.lean:17]: Same answer as above: it now compiles. Note that I also had to add the instance has_zero S.

Comment (kbuzzard) [reply src/Huber_ring.lean:17]: We have `instance subset.ring {S : set R} [is_subring S] : ring S :=
by subtype_instance` . Why does Lean not then know that `S` has a zero? Is it because of subset/subtype issue?

File: src/for_mathlib/group_completion.lean [hunk 4]
```diff
@@ -3,11 +3,11 @@ import for_mathlib.completion
 
 universe u
 variables {α : Type*} [uniform_space α]
-variables (G : Type u) [add_comm_group G] [topological_space G] [topological_add_group G]  
+variables (G : Type u) [add_comm_group G] [topological_space G] [topological_add_group G]
```
Comment (kbuzzard) [inline src/for_mathlib/group_completion.lean:7]: Is there a "hide all changes which are just whitespace issues when reviewing" setting in github?

File: src/power_bounded.lean (hunk 2 above)
Comment (kbuzzard) [reply src/power_bounded.lean:31]: `simpa` is not the same as "simp;assumption", although nobody updates the docs to indicate this. You can find Mario explaining it several times in Zulip now.

File: src/for_mathlib/topological_structures.lean [hunk 5]
```diff
@@ -178,58 +176,58 @@ instance topological_add_group.to_uniform_space : uniform_space G :=
...
-      cc 
+      cc
     end,}
 
 variable {G}
-lemma uniformity_eq_vmap_nhds_zero : uniformity = vmap δ (nhds (0 : G)) := rfl
+lemma uniformity_eq_comap_nhds_zero : uniformity = comap δ (nhds (0 : G)) := rfl
 
-instance topological_add_group_is_uniform : uniform_add_group G := 
+instance topological_add_group_is_uniform : uniform_add_group G :=
```
Comment (kbuzzard) [inline src/for_mathlib/topological_structures.lean:187]: Similarly it would be nice to tell github "also ignore any changes which are of the form vmap->comap" ;-)

**Review by kbuzzard — APPROVED** [review]

File: src/for_mathlib/group_completion.lean (hunk 4 above)
Comment (jcommelin) [reply src/for_mathlib/group_completion.lean:7]: Yes there is. You can choose this in some dropdown menu at the top of the page. Alternatively, append `?w=1` to the URL.
